US04946495
Preparation of 2-(trimethylsilyl)ethyl 6-(4,6-dimethoxypyrimidin-2-yl)oxy-2-fluorobenzoate (Compound No. 3)
6-(4,6-dimethoxypyrimidin-2-yl)oxy-2-fluorobenzoic acid (3.0 g) and carbonyldiimidazole (1.8 g) were dissolved in 50 ml of tetrahydrofuran, and the mixture was refluxed under heating and stirring for one hour. After cooling the reaction solution, 2-(trimethylsilyl)ethanol (6.0 g) and potassium carbonate (1.5 g) were added thereto, and the mixture was refluxed under heating and stirring for one hour. The reaction solution was poured into ice water and extracted with ethyl ether. The extract was washed with water and dried. Then, the solvent was evaporated under reduced pressure. The residue thereby obtained was purified by silica gel column chromatography to obtain the above identified compound as a pale yellow oily substance (2.4 g). Refractive index nD20 : 1.5159.

reactant | 6-(4,6-dimethoxypyrimidin-2-yl)oxy-2-fluorobenzoic acid | 3.0 g | COC1=NC(=NC(=C1)OC)OC1=CC=CC(=C1C(=O)O)F | C13H11FN2O5
reactant | carbonyldiimidazole | 1.8 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-(trimethylsilyl)ethanol | 6.0 g | C[Si](CCO)(C)C | C5H14OSi
reactant | potassium carbonate | 1.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-(trimethylsilyl)ethyl 6-(4,6-dimethoxypyrimidin-2-yl)oxy-2-fluorobenzoate | COC1=NC(=NC(=C1)OC)OC1=CC=CC(=C1C(=O)OCC[Si](C)(C)C)F | C18H23FN2O5Si
